US07435837B2
(+)-{[7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl]methyl}amine
The title compound was prepared (0.17 g, 78%) following the general procedure of Example 129 as a yellow solid, hydrochloride salt from (+)-benzyl {[7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate (0.30 g, 0.832 mmol) and trimethylsilyl iodide (0.66 g, 3.33 mmol). [α]D25=+27.2 (c 10.0 in methanol); mp 168-171° C.

reactant | (+)-benzyl {[7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 0.832 mmol, 0.30 g | N1=CC(=CC=C1)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C22H20N2O3
reactant | trimethylsilyl iodide | 3.33 mmol, 0.66 g | C[Si](C)(C)I | C3H9ISi
solvent | methanol | CO | CH4O
product | (+)-{[7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl]methyl}amine | N1=CC(=CC=C1)C1=CC=CC=2CC(OC21)CN | C14H14N2O
